US04454320
n-Butyl lithium is reacted with 2,4-dibromofuran in ether according to the procedure of Sornay et al. [Bull. soc. chim. Fr., p. 998 (1971)]. The resulting organolithium solution is reacted with alloxan at -60° to -65° C. according to Example 5, affording 5-(4-bromo-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,4-dibromofuran | BrC=1OC=C(C1)Br | C4H2Br2O
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
solvent | ether | CCOCC | C4H10O
product | 5-(4-bromo-2-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione | BrC=1C=C(OC1)C1C(NC(NC1=O)=O)=O | C8H5BrN2O4
